US05519076
To a mixture of 134 g of nonylphenol, 174 g of process oil (Mentor 28:Esso Petroleum) and 62 g of an aromatic hydrocarbon solvent (Solvesso 100: Esso Petroleum) was added 243 g of strontium hydroxide (octahydrate salt) gradually to disperse it, the mixture was subjected to reaction at 105° C. for one hour, and water was completely removed at 130° C. Carbon dioxide (10 L/hour) was blown thereinto for 5 hours to progress reaction, and the mixture was gradually heated to 155° C. to continue reaction while water was distilled off, and then filtered to give a brown solution of an overbased strontium nonylphenolate-carbonate complex (Sr=15%; metal ratio=2.9) (this product is designated S-5).

reactant | nonylphenol | 134 g | CCCCCCCCCC=1C=CC(=CC1)O | C15H24O
reactant | strontium hydroxide | 243 g | [OH-].[Sr+2].[OH-]
solvent | water | O | H2O
product | strontium nonylphenolate carbonate | 15% | C(CCCCCCCC)C1=C(C=CC=C1)[O-].[Sr+2].C(CCCCCCCC)C1=C(C=CC=C1)[O-].C([O-])([O-])=O | InChI=1S/2C15H24O.CH2O3.Sr/c2*1-2-3-4-5-6-7-8-11-14-12-9-10-13-15(14)16;2-1(3)4;/h2*9-10,12-13,16H,2-8,11H2,1H3;(H2,2,3,4);/q;;;+2/p-4
